*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.00e-02[uF]/80[V]
* Murata P/N :GCM2195C1K103JA16
* Property : C = 1.00e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2195C1K103JA16 Port1 Port2
C01 Port1 N01 1.00e-08
R01 Port1 N01 1.00e+11
L02 N01 N02 9.41e-11
R03 N02 N03 5.03e-03
L04 N03 N04 1.15e-10
R04 N03 N04 2.39e-01
L05 N04 N05 4.29e-12
R05 N04 N05 1.28e-01
L06 N05 N06 5.23e-11
R06 N05 N06 4.59e-03
L07 N06 N07 5.95e-11
R07 N06 N07 5.22e-04
C08 N07 N08 3.24e-08
L08 N07 N08 3.93e-11
R08 N07 N08 3.40e-01
C09 N08 N09 1.42e-08
L09 N08 N09 3.87e-11
R09 N08 N09 3.60e-01
C10 N09 N10 7.52e-08
L10 N09 N10 3.54e-12
R10 N09 N10 6.10e-02
C11 N10 N11 2.87e-08
L11 N10 N11 5.79e-12
R11 N10 N11 1.06e-01
C12 N11 Port2 1.25e-12
L12 N11 Port2 1.93e-10
R12 N11 Port2 2.42e+02
.ENDS GCM2195C1K103JA16
